US07435823B2
A 16×100 mm resealable vial with stir-bar was charged with 1,2-dichloroethane (3.0 mL), 6-(6,7-dimethoxyquinolin-4-yloxy)-1-naphthoyl chloride (0.15 g, 0.38 mmol), and 5-amino-3-methylisoxazole (0.045 g, 0.46 mmol). To the suspension was added triethylamine (0.13 mL, 0.95 mmol) and N,N-dimethylaminopyridine (0.005 g, 0.04 mmol). The mixture stirred at 80° C. for 15 h and was then cooled to RT. The reaction mixture was concentrated and the residue was purified by column chromatography on silica gel (eluting with 2% methanol in dichloromethane) to afford 6-((6,7-bis(methoxy)-4-quinolinyl)oxy)-N-(5-methyl-3-isoxazolyl)-1-naphthalenecarboxamide as an off-white solid. MS (ESI, pos. ion) m/z: 456.1 (M+H). Mass Calc'd for C29H26FN3O5: 455.468

reactant | 6-(6,7-dimethoxyquinolin-4-yloxy)-1-naphthoyl chloride | 0.38 mmol, 0.15 g | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)Cl | C22H16ClNO4
reactant | 5-amino-3-methylisoxazole | 0.46 mmol, 0.045 g | NC1=CC(=NO1)C | C4H6N2O
reactant | triethylamine | 0.95 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | 1,2-dichloroethane | 3.0 mL | ClCCCl | C2H4Cl2
product | 6-((6,7-bis(methoxy)-4-quinolinyl)oxy)-N-(5-methyl-3-isoxazolyl)-1-naphthalenecarboxamide | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)NC1=NOC(=C1)C | C26H21N3O5
